US06521754B2
N-(7-Acetylamino-4-methoxy-benzothiazol-2-yl)-4-fluoro-benzamide
Using 7-acetylamino-4-methoxy-benzothiazol-2-ylamine and 4-fluoro-benzoyl chloride the title compound was obtained as a tan solid (25% yield), MS: m/e=359.1 (M+H+).

reactant | 7-acetylamino-4-methoxy-benzothiazol-2-ylamine | C(C)(=O)NC1=CC=C(C=2N=C(SC21)N)OC | C10H11N3O2S
reactant | 4-fluoro-benzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | N-(7-Acetylamino-4-methoxy-benzothiazol-2-yl)-4-fluoro-benzamide | C(C)(=O)NC1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)F)=O)OC | C17H14FN3O3S
